US08487093B2
Step 10: tert-Butyl 4-({[(2S,5R)-6-hydroxy-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)piperidine-1-carboxylate
Benzyl 4-({[(2R,5S)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)piperidine-1-carboxylate starting material (1.9 kg @ 97 wt %) and Boc2O (0.776 kg) were charged to a glass bottle, and the solids were dissolved in THF (15 L). The solution was then charged to a hydrogenation reactor along with Pd(OH)2 (184.3 g) and another portion of THF (10.8 L). The reaction was carried out at 45 prig H2, 23° C. for 5 hours. After the reaction was complete as determined by HPLC analysis, the solution was filtered through solka flok to remove the catalyst and the filter cake was washed with THF. The filtrate and washes were then solvent switched by vacuum distillation to EtOAc to a volume of 10 L. Approximately 30 L EtOAc was used during the solvent switch and the THF level after a constant volume distillation (10 L at a maximum temperature of 20° C.) was determined by proton NMR to be ˜4 mol % THF:EtOAc. The resulting EtOAc slurry was aged at room temperature for 1 hour, after which hexanes (4 L) was added over 1 hour at room temperature. The slurry was aged for an additional 1 hour after which the supernatant concentration was measured (target: ˜6 mg/g). The solids were then filtered and washed with 60% EtOAc/hexanes solution (3×3 L) and dried under vacuum and N2 at room temperature to afford the title product (80% isolated yield). 1H NMR (400 MHz, CDCl3): 8.60 (br s, 1H), 6.67 (d, J=8.2 Hz, 1H), 4.12-4.00 (m, 2H), 4.00-3.91 (m, 1H), 3.89 (d, J=7.8 Hz, 1H), 3.81-3.76 (m, 1H), 3.19 (dt, J=11.2, 2.9 Hz, 1H), 2.90 (t, J=11.9 Hz, 2H) 2.82 (d, J=11.3 Hz, 1H), 2.45 (dd, J=15.0, 6.7 Hz, 1H), 2.21-2.11 (m, 1H), 2.02-1.85 (m, 3H), 1.80-1.69 (m, 1H), 1.48 (s, 9H), 1.44-1.30 (m, 2H)

reactant | Benzyl 4-({[(2R,5S)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)piperidine-1-carboxylate | 1.9 kg | C(C1=CC=CC=C1)ON1[C@H]2CC[C@@H](N(C1=O)C2)C(=O)NC2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C27H32N4O5
reactant | Boc2O | 0.776 kg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 15 L | C1CCOC1 | C4H8O
catalyst | Pd(OH)2 | 184.3 g | [OH-].[OH-].[Pd+2]
solvent | THF | 10.8 L | C1CCOC1 | C4H8O
product | tert-Butyl 4-({[(2S,5R)-6-hydroxy-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)piperidine-1-carboxylate | 80% | ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C | C17H28N4O5
